US04704459
A mixture of 9.5 g of methyl 2-(2,4-difluorophenylamino)-5-fluoro-6-hydroxynicotinate, 26.5 g of phosphorus pentachloride and 46.9 g of phosphorus oxychloride was subjected to reaction at 70°-80° C. for 4 hours. Subsequently, the reaction mixture was gradually added to 285 ml of water, and the crystals thus deposited were collected by filtration and then washed with 57 ml of water. The crystals thus obtained were purified by a column chromatography [Wako Silica Gel C-200, eluant: toluene] to obtain 3.5 g (yield 34.7%) of methyl 6-chloro-2-(2,4-difluorophenylamino)-5-fluoronicotinate having a melting point of 137°-139° C.

reactant | methyl 2-(2,4-difluorophenylamino)-5-fluoro-6-hydroxynicotinate | 9.5 g | FC1=C(C=CC(=C1)F)NC1=C(C(=O)OC)C=C(C(=N1)O)F | C13H9F3N2O3
reactant | phosphorus pentachloride | 26.5 g | P(Cl)(Cl)(Cl)(Cl)Cl | Cl5P
reactant | phosphorus oxychloride | 46.9 g | P(=O)(Cl)(Cl)Cl | Cl3OP
solvent | water | 285 ml | O | H2O
product | methyl 6-chloro-2-(2,4-difluorophenylamino)-5-fluoronicotinate | 3.5 g, yield 34.7% | ClC1=NC(=C(C(=O)OC)C=C1F)NC1=C(C=C(C=C1)F)F | C13H8ClF3N2O2
